US09029531B2
Step A: tert-butyl 4-(3-(2-methoxy-2-oxoethyl)phenyl)-5,6-dihydropyridine-1(2H)-carboxylate
The solution of methyl 2-(3-bromophenyl)acetate (288.9 mg, 1.26 mmol), tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate (300 mg, 0.97 mmol), PdCl2(dppf) (35.5 mg, 4.8% mmol) and K2CO3 (268.1 mg, 1.94 mmol) in DMF (20 mL) was stirred at 90 degree under N2 overnight. After cooling to room temperature, the mixture was filtered with celite, diluted with EtOAc, washed with water, dried over Na2SO4 and evaporated under reduced pressure. The residue was purified by a standard method to get desired product. LC-MS: m/z (M+H)=332.4

reactant | methyl 2-(3-bromophenyl)acetate | 1.26 mmol, 288.9 mg | BrC=1C=C(C=CC1)CC(=O)OC | C9H9BrO2
reactant | tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate | 0.97 mmol, 300 mg | CC1(OB(OC1(C)C)C1=CCN(CC1)C(=O)OC(C)(C)C)C | C16H28BNO4
reactant | K2CO3 | 1.94 mmol, 268.1 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2(dppf) | 35.5 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | tert-butyl 4-(3-(2-methoxy-2-oxoethyl)phenyl)-5,6-dihydropyridine-1(2H)-carboxylate | COC(CC=1C=C(C=CC1)C1=CCN(CC1)C(=O)OC(C)(C)C)=O | C19H25NO4
